US07319152B2
5-(5-chlorothien-2-yl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 5-chlorothien-2-yl boronic acid according to the procedure described in example 21. MS m/z 277; HRMS: calcd for C15H13ClOS+H+, 277.04484; found (ESI, [M+H]+), 277.0444.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 5-chlorothien-2-yl boronic acid | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
product | 5-(5-chlorothien-2-yl)-3,3-dimethylindan-1-one | ClC1=CC=C(S1)C=1C=C2C(CC(C2=CC1)=O)(C)C | C15H13ClOS
